US09056859B2
A mixture of 6-fluoro-5-iodo-3,4-dihydro-1H-isochromene-1-carboxylic acid (1.32 g, 4 mmol) and CDI (690 mg, 4.9 mmol) in 50 mL of dry DCM was stirred at r.t. for 3 hrs and then O,N-dimethyl-hydroxylamine (500 mg, 5.1 mmol) was added. The result mixture was stirred oversight. The solvents were removed under vacuum, and the residue was purified via column chromatograph to afford 6-fluoro-5-iodo-N-methoxy-N-methyl-3,4-dihydro-1H-isochromene-1-carboxamide.

reactant | 6-fluoro-5-iodo-3,4-dihydro-1H-isochromene-1-carboxylic acid | 4 mmol, 1.32 g | FC=1C(=C2CCOC(C2=CC1)C(=O)O)I | C10H8FIO3
reactant | CDI | 4.9 mmol, 690 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | O,N-dimethyl-hydroxylamine | 5.1 mmol, 500 mg | CONC | C2H7NO
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-5-iodo-N-methoxy-N-methyl-3,4-dihydro-1H-isochromene-1-carboxamide | FC=1C(=C2CCOC(C2=CC1)C(=O)N(C)OC)I | C12H13FINO3
